US08426411B2
Water (1.0 mL) was added to a mixture of 6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.200 g, 1.26 mmol, prepared using D from Preparation #BBBBB.1 and NaOH) and hexamethylenetetramine (0.264 g, 1.89 mmol). Acetic acid (0.5 mL) was added. The reaction vessel was sealed and the mixture was warmed to about 100° C. After about 8 h, the solution was allowed to cool to ambient temperature. After sitting for about 13 h, the mixture was cooled to about 0° C. The resulting mixture was diluted with water (1 mL) and then filtered rinsing with water. The solid was dried to afford 6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carbaldehyde (0.041 g, 18%): LC/MS (Table 1, Method n) Rt=0.23 min; MS m/z 188 (M+H)+.

reactant | 6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 1.26 mmol, 0.200 g | C1=NN=C2N1C1=C(N=C2)NC=C1 | C7H5N5
reactant | hexamethylenetetramine | 1.89 mmol, 0.264 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | Acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
solvent | Water | 1.0 mL | O | H2O
product | 6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carbaldehyde | 0.041 g, 18% | C1=NN=C2N1C1=C(N=C2)NC=C1C=O | C8H5N5O
